US07728039B2
820 mg (3.4 mmol) of methyl 4-bromocinnamate were dissolved in 7 ml of dry toluene, added with 116 mg (0.1 mmol) of Pd(PPh3)4, a solution of 374 mg (1.1 mmol) of 4-cyanobenzeneboronic acid in 2 ml of MeOH, 6.8 ml of 2M Na2CO3 in water, and refluxed 9 h. Addition of EtOAc, washing with water, then with brine, filtration and flash chromatography (Merck silicagel) with Hexane/EtOAc mixtures 9/1 gave 273 mg of methyl 3-(4-cyanobiphenylyl)acrylate, mp. 150-152° C.

reactant | methyl 4-bromocinnamate | 3.4 mmol, 820 mg | BrC1=CC=C(C=CC(=O)OC)C=C1 | C10H9BrO2
reactant | 4-cyanobenzeneboronic acid | 1.1 mmol, 374 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 2 ml | CO | CH4O
solvent | Na2CO3 | 2M, 6.8 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(4-cyanobiphenylyl)acrylate | 273 mg | C(#N)C1=CC(=C(C=C1)C1=CC=CC=C1)C=CC(=O)OC | C17H13NO2
